US07723367B2
3-(5-Methyl-pyridin-2-yloxy)-benzonitrile
A mixture of 3-hydroxy-benzonitrile (500 mg, 4.17 mmol), 2-fluoro-5-methyl pyridine (467 mg, 4.17 mmol) and K2CO3 (150 mg) in N,N-dimethylformamide (5 mL) was heated at 150° C. overnight. The reaction mixture was poured into water, and extracted with ethyl acetate (2×). The solvent was removed, and the resulting residue was chromatographered using hexane/ethyl acetate (2:1) to give the title compound (315 mg, 36%). MS (DCI/NH3) m/z 211 (M+1)+. 1HNMR (400 MHz, DMSO-d6) δ ppm 2.25 (s, 3H) 7.02 (d, J=8.59 Hz, 1H) 7.45 (ddd, J=8.29, 1.53, 0.92 Hz, 1H) 7.61 (m, 3H) 7.71 (ddd, J=8.29, 2.46, 0.61 Hz, 1H) 7.99 (dt, J=2.45, 0.61 Hz, 1H).

reactant | 3-hydroxy-benzonitrile | 4.17 mmol, 500 mg | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | 2-fluoro-5-methyl pyridine | 4.17 mmol, 467 mg | FC1=NC=C(C=C1)C | C6H6FN
reactant | K2CO3 | 150 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-(5-Methyl-pyridin-2-yloxy)-benzonitrile | 315 mg, 36% | CC=1C=CC(=NC1)OC=1C=C(C#N)C=CC1 | C13H10N2O
